US07345068B2
A solution of 4-(tributylstannyl)pyridine (288 mg, 0.782 mmol) in degassed 1,4-dioxane (1 ml) and tetrakis(triphenyl-phosphine)palladium (46 mg, 0.04 mmol) were added in turn to a solution of 3-(3-bromophenoxy)-N-trifluoroacetyl-L-phenylalanine ethyl ester (360 mg, 0.782 mmol) in degassed 1,4-dioxane (6 ml) at room temperature and the mixture was stirred under heating for 8 hrs. After the mixture was cooled to room temperature, ethyl acetate was added thereto and the mixture was washed with saturated sodium fluoride solution, water and brine in turn and then dried. The solvent was distilled off under reduced pressure. The residue was purified by column chromatography on silica gel (n-hexane/ethyl acetate=1) to give N-trifluoroacetyl-3-[3-(4-pyridyl)phenoxy]-L-phenylalanine ethyl ester (235 mg, 66%) as colorless resinous substance.

reactant | 4-(tributylstannyl)pyridine | 0.782 mmol, 288 mg | C(CCC)[Sn](C1=CC=NC=C1)(CCCC)CCCC
reactant | 3-(3-bromophenoxy)-N-trifluoroacetyl-L-phenylalanine ethyl ester | 0.782 mmol, 360 mg | C(C)OC([C@@H](NC(C(F)(F)F)=O)CC1=CC(=CC=C1)OC1=CC(=CC=C1)Br)=O | C19H17BrF3NO4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | N-trifluoroacetyl-3-[3-(4-pyridyl)phenoxy]-L-phenylalanine ethyl ester | 235 mg, 66% | C(C)OC([C@@H](NC(C(F)(F)F)=O)CC1=CC(=CC=C1)OC1=CC(=CC=C1)C1=CC=NC=C1)=O | C24H21F3N2O4
